US07176242B2
Methyl 3-{[butyl(methyl)amino]methyl}-5-(1,3-oxazol-2-yl)benzoate
To an ice-cold solution of 3-(methoxycarbonyl)-5-(1,3-oxazol-2-yl)benzoic acid (340 mg, 1.4 mmol) in anhydrous tetrahydrofuran (10 mL) is added lithium borohydride (250 mg, 11 mmol) slowly. The reaction is stirred 30 min, then absolute ethanol (4 mL) is added, and the reaction is stirred 1 h. The solution is poured onto ice containing excess hydrochloric acid and extracted with ethyl acetate. The organic layer is washed with water, brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. The residue is redissolved in 20% methanol/benzene (50 mL), and 2M trimethylsilyldiazomethane in hexane (0.9 mL, 1.8 mmol) is added. The reaction is stirred 2 h at room temperature, then concentrated under reduced pressure. The residue is redissolved in anhydrous methylene chloride (10 mL), cooled to −30° C., then methanesulfonyl chloride (150 μL, 1.9 mmol) and triethylamine (380 μL, 2.7 mmol) are added. The reaction is stirred at 0° C. 15 min, then N-methylbutylamine (480 μL, 4 mmol) is added, and the reaction is stirred 16 h at room temperature. The solution is concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 40–100% ethyl acetate/hexane gradient) provides the title compound in pure form. ESI MS m/z 303.3 [M+H]+.

reactant | 3-(methoxycarbonyl)-5-(1,3-oxazol-2-yl)benzoic acid | 1.4 mmol, 340 mg | COC(=O)C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1 | C12H9NO5
reactant | lithium borohydride | 11 mmol, 250 mg | [BH4-].[Li+]
reactant | trimethylsilyldiazomethane | 2M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 1.8 mmol, 0.9 mL | CCCCCC | C6H14
reactant | methanesulfonyl chloride | 1.9 mmol, 150 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.7 mmol, 380 μL | C(C)N(CC)CC | C6H15N
reactant | N-methylbutylamine | 4 mmol, 480 μL | CNCCCC | C5H13N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | Methyl 3-{[butyl(methyl)amino]methyl}-5-(1,3-oxazol-2-yl)benzoate | C(CCC)N(C)CC=1C=C(C(=O)OC)C=C(C1)C=1OC=CN1 | C17H22N2O3
